US05230710
1st stage: Preparation of β-chloroethyl N-(2-methyl-3-nitrophenyl)carbamate
91 g of 2-nitro-6-aminotoluene and 31 g of calcium carbonate are initially introduced into the reaction vessel in 750 ml of dioxane, and are heated up to 70° C. 87 g of β-chloroethyl chloroformate are added dropwise to this mixture in the course of two hours such that the reaction mixture refluxes gently, carbon dioxide being evolved. The mixture is subsequently stirred under reflux for a further two hours and then cooled to 35° C., and water and ice are added. The product which has precipitated is filtered off with suction, washed with water, and dried.

reactant | 2-nitro-6-aminotoluene | 91 g | [N+](=O)([O-])C1=C(C(=CC=C1)N)C | C7H8N2O2
reactant | calcium carbonate | 31 g | C([O-])([O-])=O.[Ca+2]
reactant | β-chloroethyl chloroformate | 87 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dioxane | 750 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | β-chloroethyl N-(2-methyl-3-nitrophenyl)carbamate | CC1=C(C=CC=C1[N+](=O)[O-])NC(OCCCl)=O | C10H11ClN2O4
